US05106871
Then, a suspension of 2.52 g of 5% palladium/carbon in 50 ml of ethyl acetate was hydrogenated for 2 hours, and a solution of 5.11 g of 2',4,4'-tris(methoxymethoxy)chalcone in 50 ml of ethyl acetate was added to the suspension and hydrogenation was carried out. After the reaction, the palladium/carbon was removed by filtration and the filtrate was concentrated under a reduced pressure to obtain 1-[2,4-bis(methoxymethoxy)phenyl]-3-(4-methoxymethoxyphenyl)-1-propanone.

reactant | 2',4,4'-tris(methoxymethoxy)chalcone | 5.11 g | COCOC1=C(C(C=CC2=CC=C(C=C2)OCOC)=O)C=CC(=C1)OCOC | C21H24O7
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 2.52 g | [Pd] | Pd
product | 1-[2,4-bis(methoxymethoxy)phenyl]-3-(4-methoxymethoxyphenyl)-1-propanone | COCOC1=C(C=CC(=C1)OCOC)C(CCC1=CC=C(C=C1)OCOC)=O | C21H26O7
